US03942997
In each of these Comparative Examples the procedure of Example 1 was followed, but using 1,3-pentadiene and isoprene in the amounts indicated in Table 5, to obtain a liquid 1,3-pentadiene/isoprene copolymer. The copolymers so obtained were baked in the same manner as in Experiment 2 of Example 1 to form baked coatings which were then immersed in toluene at 20° C for 1 hour to investigate their solvent resistance. The results are indicated in Table 5.

reactant | 1,3-pentadiene | C=CC=CC | C5H8
reactant | isoprene | C=CC(C)=C | C5H8
product | 1,3-pentadiene isoprene | C=CC=CC.C=CC(C)=C | 2C5H8
